US08957064B2
7-{4-[4-(6-fluoro-1H-benzimidazol-2-yl)-piperidin-1-ylmethyl]-phenyl}-6-phenylimidazo[1,2-a]pyrimidine
150 mg (0.5 mmol) 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde were reacted with 132 mg (0.6 mmol) 6-fluoro-2-piperidine-4-yl-1H-benzimidazole hydrochloride salt in analogy as described in example 6.0. The desired compound (165 mg) was obtained after purification on silicagel.

reactant | 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 0.5 mmol, 150 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | 6-fluoro-2-piperidine-4-yl-1H-benzimidazole hydrochloride salt | 0.6 mmol, 132 mg | Cl.FC=1C=CC2=C(NC(=N2)C2CCNCC2)C1
product | 7-{4-[4-(6-fluoro-1H-benzimidazol-2-yl)-piperidin-1-ylmethyl]-phenyl}-6-phenylimidazo[1,2-a]pyrimidine | 165 mg | FC=1C=CC2=C(NC(=N2)C2CCN(CC2)CC2=CC=C(C=C2)C2=NC=3N(C=C2C2=CC=CC=C2)C=CN3)C1 | C31H27FN6
